US06730681B2
A solution of 3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline (0.33 g, 0.71 mmol), triethylamine (0.3 ml, 2.1 mmol) and piperazine-1-carboxylic acid tert-butyl ester (0.26 g, 1.4 mmol) in dry N,N-dimethylformamide (6 ml) was stirred at 50° C. under nitrogen for 18 h. The mixture was cooled, then diluted with water (30 ml) and extracted with EtOAc (2×75 ml). The combined organic extracts were washed with brine, dried over MgSO4 and evaporated to give a brown oil. Purification by flash column chromatography eluting with CH2Cl2:MeOH (93:7) gave 4-[3-(2-fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazolin-5-yl]piperazine-1-carboxylic acid tert-butyl ester as a white solid (0.28 g, 88%). δH (400 MHz; CDCl3) 1.50 (9H, s), 3.59-3.62 (4H, m), 3.69-3.72 (4H, m), 7.19-7.30 (2H, m), 7.32-7.37 (1H, m), 7.63 (1H, ddd, J=8, 8 and 1), 7.91 (1H, ddd, J=8, 8 and 1), 8.02 (1H, d, J=8), 8.11 (1H, ddd, J=7, 7 and 2), 8.70 (1H, dd, J=8 and 1).

reactant | 3-(2-fluorophenyl)-5-(4-methylbenzenesulfonyloxy)-[1,2,3]triazolo[1,5-α]quinazoline | 0.71 mmol, 0.33 g | FC1=C(C=CC=C1)C=1N=NN2C1N=C(C1=CC=CC=C21)OS(=O)(=O)C2=CC=C(C=C2)C | C22H15FN4O3S
reactant | triethylamine | 2.1 mmol, 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | piperazine-1-carboxylic acid tert-butyl ester | 1.4 mmol, 0.26 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | 4-[3-(2-fluorophenyl)-[1,2,3]triazolo[1,5-α]quinazolin-5-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.28 g, 88% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C3=CC=CC=C13)N=NC2C2=C(C=CC=C2)F | C24H25FN6O2
